US04065553
V. Preparation of 2,4,6-triiodo-3-ε-aminocaproylamino-benzoic acid (Compound V)
The same procedure is used as for Compound I, using 2,4,6-triiodo-3-amino-benzoic acid as iodo starting material and ε-phthalimidocaproic acid chloride.

reactant | 2,4,6-triiodo-3-amino-benzoic acid | IC1=C(C(=O)O)C(=CC(=C1N)I)I | C7H4I3NO2
reactant | ε-phthalimidocaproic acid chloride | C1(C=2C(C(N1CCCCCC(=O)Cl)=O)=CC=CC2)=O | C14H14ClNO3
product | 2,4,6-triiodo-3-ε-aminocaproylamino-benzoic acid | IC1=C(C(=O)O)C(=CC(=C1NC(CCCCCN)=O)I)I | C13H15I3N2O3
